US07576115B2
1) Synthesis of acetic acid 4-acetyl-2-(4-tert-butylphenyl)thiophen-3-yl ester
To a solution of 2-(4-tert-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (137 mg, 0.5 mmol) in THF (2 mL) were added triethylamine (105 μL, 0.75 mmol) and acetyl chloride (53.3 μL, 0.75 mmol). The reaction mixture was stirred at room temperature for 0.5 h. After removing solvent, the residue was diluted with AcOEt, washed with a saturated aqueous NH4Cl solution, dried over MgSO4 and concentrated to give product as a brown oil (146 mg, yield 92%).

reactant | 2-(4-tert-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.5 mmol, 137 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | triethylamine | 0.75 mmol, 105 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.75 mmol, 53.3 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | acetic acid 4-acetyl-2-(4-tert-butylphenyl)thiophen-3-yl ester | 146 mg, yield 92% | C(C)(=O)C=1C(=C(SC1)C1=CC=C(C=C1)C(C)(C)C)OC(C)=O | C18H20O3S
